US04910341
Preparation of 1-(β-hydroxyethyl)amino-2-nitro-4-[(β-hydroxyethyl)amino]benzene
0.2 mole (53.4 g) of N-[4-(β-hydroxyethyl)amino-3-nitrophenyl]oxazolidone, prepared according to Example 5, is treated with 135 ml of 3N sodium hydroxide to which 55 ml of 96° strength ethanol has been added. 0.18 mole (44.2 g) of the expected product is obtained. It melts at 107° C.

reactant | N-[4-(β-hydroxyethyl)amino-3-nitrophenyl]oxazolidone | 0.2 mole, 53.4 g | OCCNC1=C(C=C(C=C1)N1[CH-]OCC1=O)[N+](=O)[O-]
reactant | sodium hydroxide | 3N, 135 ml | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-(β-hydroxyethyl)amino-2-nitro-4-[(β-hydroxyethyl)amino]benzene | 0.18 mole, 44.2 g | OCCNC1=C(C=C(C=C1)NCCO)[N+](=O)[O-] | C10H15N3O4
